US07485640B2
A cooled (0° C.) solution of 5-bromo-2-fluorophenol, (2-methyl-2H-[1,2,4]triazol-3-yl)methanol and triphenylphosphine in tetrahydrofuran was treated dropwise with diisopropyl azodicarboxylate over 10 min. The resulting mixture was stirred overnight and then acetic acid was added. The reaction mixture was evaporated to dryness and the residue was partitioned between ethyl acetate and 0.01N sodium hydroxide solution. The organic phase was washed with water and brine, dried over anhydrous magnesium sulphate and pre-adsorbed onto silica. Purification by flash column chromatography on silica gel, eluting with isohexane on a gradient of ethyl acetate (10-50%), led to product-containing fractions that were combined. The material was further purified by flash column chromatography on silica gel, eluting with dichloromethane containing 1% ammonia on a gradient of methanol (0.5-3%), to give 5-(5-bromo-2-fluoro-phenoxymethyl)-1-methyl-1H-[1,2,4]triazole as an off-white solid (2.1 g, 37%): δH (360 MHz, CDCl3) 4.01 (3H, s), 5.29 (2H, s), 6.96-6.99 (1H, m), 7.09-7.13 (1H, m), 7.29 (1H, dd, J 5 and 2), 7.88 (1H, s); m/z (ES+) 288 [MH+].

reactant | 5-bromo-2-fluorophenol | BrC=1C=CC(=C(C1)O)F | C6H4BrFO
reactant | (2-methyl-2H-[1,2,4]triazol-3-yl)methanol | CN1N=CN=C1CO | C4H7N3O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(5-bromo-2-fluoro-phenoxymethyl)-1-methyl-1H-[1,2,4]triazole | 2.1 g, 37% | BrC=1C=CC(=C(OCC2=NC=NN2C)C1)F | C10H9BrFN3O
